US05447957
f) 2-[2-[3-(Octyl)ureido]-4-trifluoromethylphenoxy]benzoic acid
A mixture of benzhydrol 2-[2[3-(octyl)ureido]-4-trifluoromethylphenoxy)-benzoate (290 mg, 0.00047 mol) and 10% palladium on carbon (100 mg) in ethyl acetate was hydrogenated in a parr bottle, at 55 psi for three hours. The mixture was diluted with chloroform, filtered through Celite and the filtrate evaporated. The residue was flash chromatographed (silica gel, ethyl acetate/hexane/formic acid) to give the title compound. 1H NMR (250 MHz, CD3OD) δ8.52 (d, 1H), 7.95 (dd, 1H), 7.6 (tt, 1H), 7.35 (tt, 1H), 7.14 (dd, 2H),6.7 (d, 1H), 3.15 (t, 1H), 1.3 (s, 14H) 0.85 (t, 3H).

reactant | benzhydrol 2-[2[3-(octyl)ureido]-4-trifluoromethylphenoxy)-benzoate | 0.00047 mol, 290 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)O.C(CCCCCCC)NC(NC1=C(OC2=C(C(=O)[O-])C=CC=C2)C=CC(=C1)C(F)(F)F)=O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-[3-(Octyl)ureido]-4-trifluoromethylphenoxy]benzoic acid | C(CCCCCCC)NC(NC1=C(OC2=C(C(=O)O)C=CC=C2)C=CC(=C1)C(F)(F)F)=O | C23H27F3N2O4
